US09108957B2
To a slurry of optically active 7-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)-phenyl]-[1,4]oxazepane hydrochloride (0.12 g, 0.41 mmol) and 2-chloro-3-methyl-6-(pyrimidin-4-yl)-3H-pyrimidin-4-one (0.09 g, 0.38 mmol) was added triethylamine (0.21 mL, 1.5 mmol) at room temperature. The mixture was stirred for 20 hours and poured into water. Extractive workup with chloroform was performed and the organic phase was dried over sodium sulfate. Concentration followed by purification of the residue by flash column chromatography on silica gel (chloroform/methanol=100/0 to 90/10 as eluants) yielded (+)-2-{7-[4-(5-methyl-[1,2,4]-oxadiazole-3-yl)phenyl]-[1,4]-oxazepane-4-yl}-3-methyl-6-pyrimidin-4-yl-3H-pyrimidin-4-one (A100) (0.09 g, 0.19 mmol, 50%) as yellowish solid.

reactant | 7-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)-phenyl]-[1,4]oxazepane hydrochloride | 0.41 mmol, 0.12 g | Cl.CC1=NC(=NO1)C1=CC=C(C=C1)C1CCNCCO1
reactant | 2-chloro-3-methyl-6-(pyrimidin-4-yl)-3H-pyrimidin-4-one | 0.38 mmol, 0.09 g | ClC1=NC(=CC(N1C)=O)C1=NC=NC=C1 | C9H7ClN4O
reactant | triethylamine | 1.5 mmol, 0.21 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (+)-2-{7-[4-(5-methyl-[1,2,4]-oxadiazole-3-yl)phenyl]-[1,4]-oxazepane-4-yl}-3-methyl-6-pyrimidin-4-yl-3H-pyrimidin-4-one | 0.19 mmol, 0.09 g, 50% | CC1=NC(=NO1)C1=CC=C(C=C1)C1CCN(CCO1)C1=NC(=CC(N1C)=O)C1=NC=NC=C1 | C23H23N7O3
